data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_369885_0,[C:1](/[C:3](=[C:2](/[N:5]([H:10])[H:11])[C:7](=[O:9])[H:14])[C:4]([N:6]([H:12])[H:13])=[C:8]([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1](/[C:3](=[C:2](\[C:4]([N:6]([H:12])[H:13])=[C:8]([H:18])[H:19])[N:5]([H:10])[H:11])[C:7](=[O:9])[H:14])([H:15])([H:16])[H:17],57.70741000001166
MR_429519_1,[C:1]([C:2]([H:11])([H:12])[H:13])([O:4][H:7])(/[N:6]=[C:3](/[O:5][H:8])[H:10])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[N:6]\[C:3]([O:4][H:7])([O:5][H:8])[H:10])[H:9],54.16830999999405
MR_678338_0,[C:1]([N:4]([N:3]([C:5]([N:8]([H:13])[H:14])=[O:10])[N:7]([H:11])[H:12])/[C:6]([C:2]([H:19])([H:20])[H:21])=[N:9]/[H:15])([H:16])([H:17])[H:18]>>[C:1]([N:4]([N:3](/[C:6]([C:2]([H:19])([H:20])[H:21])=[N:9]/[H:15])[N:7]([H:11])[H:12])[C:5]([N:8]([H:13])[H:14])=[O:10])([H:16])([H:17])[H:18],72.04327500002137
MR_393687_0,[C@:1]1([O:6][H:7])([H:8])[C@@:4]([C:2]([H:13])([H:14])[H:15])([H:11])[C@:5]1([N:3]([H:9])[H:10])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:5](/[N:3]([H:9])[H:10])[H:12])[H:11])([O:6][H:7])[H:8],71.97927000000462
MR_115290_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([C:7](=[O:8])[H:11])[C:2]([C:5]([H:15])([H:16])[H:18])([H:9])[C:3]1([C:6]([H:17])([H:19])[H:20])[H:10]>>[C:1](\[C:2]([C:5]([H:15])([H:16])[H:18])([C:7](=[O:8])[H:11])[H:9])(=[C:3](\[C:6]([H:17])([H:19])[H:20])[H:10])[C:4]([H:12])([H:13])[H:14],69.03943249997212
MR_33396_0,[C:1](/[C:3](=[C:5](/[C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])[H:9])[O:6][H:8])([H:10])([H:11])[H:12]>>[C:1]([C@:3]1([O:6][H:8])[C:5]([H:9])=[C:4]([C:2]([H:13])([H:14])[H:15])[O:7]1)([H:10])([H:11])[H:12],59.98147000001296
MR_632750_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[O:6][H:9])([O:7][H:10])[N:8]1[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[O:6][H:9])=[N:8]/[H:12])([O:7][H:10])[H:11],71.55319750001027
MR_304878_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](/[C:3]([O:6][H:8])=[N:7]/[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:5]([H:10])=[C:3]([O:6][H:8])[N:7]1[H:9])([H:11])([H:12])[H:13],53.07018500002002
MR_582345_1,[N:1]([N:2]([H:7])[H:8])([C:3](=[C:4]([H:10])[H:11])[H:9])[O:5][H:6]>>[N:1]1([N:2]([H:7])[H:8])[C@:3]([O:5][H:6])([H:9])[C:4]1([H:10])[H:11],37.818797500003285
MR_567875_2,[C:1](/[C:2]([C:5](=[C:6]([H:15])[H:16])[H:14])=[N:7]/[H:13])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:8]>>[C:1](\[C:2]([N:4]([H:11])[H:12])([C:5](=[C:6]([H:15])[H:16])[H:14])[N:7]([H:10])[H:13])(=[N:3]/[H:9])[H:8],49.999199999997614
MR_80826_0,[C:1](/[N:7]=[C:5](/[N:6]=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])[N:6]=[C:5]1[H:10])([H:11])([H:12])[H:13],30.93135749995014
MR_323438_0,[C:1]([O:6][N:8]=[C:2]([N:4]([H:12])[H:13])[N:5]([H:14])[H:15])([O:7][N:3]([H:10])[H:11])=[O:9]>>[C:1]1(=[O:9])[O:6][N:8]1[C:2]([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:7][N:3]([H:10])[H:11],56.08030249994641
MR_42513_0,[C:1]1([C:4]([O:6][H:8])=[O:7])([H:9])[C:2]([N:5]([H:11])[H:12])([H:10])[C:3]1([H:13])[H:14]>>[C:1]1([H:9])=[C:4]([O:6][H:8])[O:7][C:2]([N:5]([H:11])[H:12])([H:10])[C:3]1([H:13])[H:14],33.064857499985294
MR_313725_0,[C:1](/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](\[N:5]([H:9])[H:10])[H:13])([O:7][O:8][C:2]([H:14])([H:15])[H:16])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@@:4]([C:3]([H:17])([H:18])[H:19])([C@@:6]([N:5]([H:9])[H:10])([O:8][C:2]([H:14])([H:15])[H:16])[H:13])[O:7]1,49.43695999999037
MR_336979_0,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:4]([C:2]([O:8][H:9])([H:13])[H:14])([O:7][N:5]([H:11])[H:12])[C:6]1([H:18])[H:19]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([C:2]([O:8][H:9])([H:13])[H:14])=[C:6]([H:18])[H:19])([O:7][N:5]([H:11])[H:12])[H:10],55.88326749998018
MR_469861_0,[C:1]([N:3](/[C:5]([C:2]([H:15])([H:16])[H:17])=[C:4](/[N:6]([H:10])[H:11])[O:7][H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])[O:7][H:8])[H:9])([H:12])([H:13])[H:14],55.44590000001435
MR_585726_0,[C@:1]1([N:6]([C:3]([H:14])([H:15])[H:16])[C:4]([H:13])([H:17])[H:18])([H:8])[C:2]([H:11])([H:12])[N:5]1[N:7]([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([N:5]([N:6]([C:3]([H:14])([H:15])[H:16])[C:4]([H:13])([H:17])[H:18])[N:7]([H:9])[H:10])[H:8],56.28800499999272
MR_616159_0,[C:1]([N:2]([C:3]([N:6][O:4][H:8])[H:10])[N:5][N:7][H:9])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[C:3](\[N:6]([O:4][H:8])[N:5][N:7][H:9])[H:10])([H:11])([H:12])[H:13],50.55390999998821
MR_408134_1,[C:1]([N:3]([N:5]([H:11])[H:12])[H:9])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:13])([O:6][H:8])[H:10]>>[C:1]1([O:6][H:8])([H:10])[C:4]([C:2]([H:14])([H:15])[H:16])([N:3]([N:5]([H:11])[H:12])[H:9])[N:7]1[H:13],47.45406000000301
